US07592373B2
4.12.d. 3-(2,4-dichlorophenyl)propynoic acid-[2-(2-pyrrolidin-1-ylethyl)benzoxazol-5-yl]amide
Prepared analogously to Example 3.1.e. from 5-amino-2-(2-pyrrolidin-1-ylethyl)benzoxazole and (2,4-dichlorophenyl)propynoic acid. Yield: 43 mg (33.1% of theory); C22H19Cl2N3O2 (M=428.32); melting point: 130° C.; calc.: molecular ion peak (M+H)+: 428/430/432; found: molecular ion peak (M+H)+: 428/430/432; C13H17N3O (M=231.30); calc.: molecular ion peak (M+H)+: 232; found: molecular ion peak (M+H)+: 232; Rf value: 0.21 (silica gel, dichloromethane/methanol/ammonia (10:1:0.1)).

reactant | 5-amino-2-(2-pyrrolidin-1-ylethyl)benzoxazole | NC=1C=CC2=C(N=C(O2)CCN2CCCC2)C1 | C13H17N3O
reactant | (2,4-dichlorophenyl)propynoic acid | ClC1=C(C=CC(=C1)Cl)C#CC(=O)O | C9H4Cl2O2
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-(2,4-dichlorophenyl)propynoic acid-[2-(2-pyrrolidin-1-ylethyl)benzoxazol-5-yl]amide | N1(CCCC1)CCC=1OC2=C(N1)C=C(C=C2)NC(C#CC2=C(C=C(C=C2)Cl)Cl)=O | C22H19Cl2N3O2
